US09289419B2
Tert-butyl (1-(5-sulfamoylpyridin-2-yl)azetidin-3-yl)carbamate
6-chloropyridine-3-sulfonamide (0.32 g, 1.66 mmol) was added to a stirred solution of tert-butyl azetidin-3-ylcarbamate (0.30 g, 1.74 mmol) and DIPEA (0.9 ml, 0.65 g, 4.98 mmol) in 10 ml of ethanol and heated to reflux for 16 h. Reaction mass was cooled to 0° C. The solid formed was filtered and dried under vacuum to obtain desired product.

reactant | 6-chloropyridine-3-sulfonamide | 1.66 mmol, 0.32 g | ClC1=CC=C(C=N1)S(=O)(=O)N | C5H5ClN2O2S
reactant | tert-butyl azetidin-3-ylcarbamate | 1.74 mmol, 0.30 g | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | DIPEA | 4.98 mmol, 0.9 ml, 0.65 g | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Tert-butyl (1-(5-sulfamoylpyridin-2-yl)azetidin-3-yl)carbamate | S(N)(=O)(=O)C=1C=CC(=NC1)N1CC(C1)NC(OC(C)(C)C)=O | C13H20N4O4S
